US06506941B1
10 g (0.06 mol) of p-methoxyphenylacetic acid, 30 ml (0.74 mol) of ethanol and 0.11 ml (0.0026 mol) of sulfuric acid were mixed in a 250 ml balloon flask provided with thermometer and reflux cooler. The thus obtained solution was heated to reflux (78° C.) and held for 1 hour 20 minutes. It was then cooled down at room temperature and 50 ml of deionized water were added. The ethanol was evaporated under vacuum and 40 ml of dichloromethane were added over the residual aqueous phase. The thus obtained mixture was stirred and allowed to decant. The organic phase was washed with 30 ml of a sodium bicarbonate saturated solution, was dried and filtered under vacuum. After evaporating the dichloromethane under vacuum, a colorless residue of ethyl p-methoxyphenylacetate weighing 10.41 g was obtained (Yield: 89%)

reactant | p-methoxyphenylacetic acid | 0.06 mol, 10 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | ethanol | 0.74 mol, 30 ml | C(C)O | C2H6O
catalyst | sulfuric acid | 0.0026 mol, 0.11 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
product | ethyl p-methoxyphenylacetate | 10.41 g, Yield: 89% | COC1=CC=C(C=C1)CC(=O)OCC | C11H14O3
